US06583135B2
tert-Butyl 6-{2-[(anilinocarbonyl)amino]ethyl}-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.0390 g, 0.0869 mmol) was dissolved in CH2Cl2 (2 mL) at rt. CF3CO2H (1 mL) was added, then the reaction mixture was stirred for 45 min. The reaction mixture was concentrated and the residue was taken up in EtOAc (2 mL). 1 N HCl in Et2O (2 mL) was added and the precipitated salt was collected by filtration. N-Phenyl-N′-[2-(2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)ethyl]urea hydrochloride (0.0296 g) was obtained in 88% yield. 1H NMR (300 MHz, CD3OD) δ 3.19-3.22, 3.35-3.38, 3.43-3.53, 4.35, 6.97-7.03, 7.07, 7.17, 7.25-7.27, 7.44, 7.48; MS (ESI+) for C21H24N4O m/z 349.2 (M+H)+.

reactant | tert-Butyl 6-{2-[(anilinocarbonyl)amino]ethyl}-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.0869 mmol, 0.0390 g | N(C1=CC=CC=C1)C(=O)NCCN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C26H32N4O3
reactant | CF3CO2H | 1 mL | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-Phenyl-N′-[2-(2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)ethyl]urea hydrochloride | 0.0296 g, 88% yield | Cl.C1(=CC=CC=C1)NC(=O)NCCN1C2=C(C=3C=CC=CC13)CCNCC2 | InChI=1S/C21H24N4O.ClH/c26-21(24-16-6-2-1-3-7-16)23-14-15-25-19-9-5-4-8-17(19)18-10-12-22-13-11-20(18)25;/h1-9,22H,10-15H2,(H2,23,24,26);1H
